US09260375B2
To a solution of dibenzyl 2-hydroxy-2-isopropyl-3-(tetrahydro-2H-pyran-4-yl)succinate (112 mg, 0.255 mmol) in ethanol (2.8 mL) was added 10% palladium/carbon (44 mg, 50% wet), and the mixture was stirred under hydrogen stream at room temperature for 2 h. The catalyst was removed by filtration, and the filtrate was concentrated to dryness under reduced pressure to give 72 mg (quantitative) of 2-hydroxy-2-isopropyl-3-(tetrahydropyran-4-yl)succinic acid as a foam.

reactant | dibenzyl 2-hydroxy-2-isopropyl-3-(tetrahydro-2H-pyran-4-yl)succinate | 0.255 mmol, 112 mg | OC(C(=O)OCC1=CC=CC=C1)(C(C(=O)OCC1=CC=CC=C1)C1CCOCC1)C(C)C | C26H32O6
solvent | ethanol | 2.8 mL | C(C)O | C2H6O
catalyst | palladium/carbon | 44 mg | [Pd] | Pd
product | 2-hydroxy-2-isopropyl-3-(tetrahydropyran-4-yl)succinic acid | 72 mg | OC(C(=O)O)(C(C(=O)O)C1CCOCC1)C(C)C | C12H20O6
